US20010049441A1
3-(1-Methyl-4-piperidinyl)-5-azaindole (0.557 g, 76%);
3-(Octahydro-7-indolizinyl)-1H-7-azaindole (less polar isomer 134.2 mg, 49.5% and more polar isomer 36.6 mg, 13.3%); from 3-(1,2,3,5,8,8a-hexahydro-7-indolizinyl)-6-azaindole (270 mg, 1.13 mmol) and 10% Pd/C (300 mg) in ethanol (4 mL) under H2 overnight.

reactant | 3-(Octahydro-7-indolizinyl)-1H-7-azaindole | C1CCN2CCC(CC12)C1=CNC2=NC=CC=C12 | C15H19N3
reactant | 3-(1,2,3,5,8,8a-hexahydro-7-indolizinyl)-6-azaindole | 1.13 mmol, 270 mg | C1CCN2CC=C(CC12)C1=CNC2=CN=CC=C12 | C15H17N3
solvent | ethanol | 4 mL | C(C)O | C2H6O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 3-(1-Methyl-4-piperidinyl)-5-azaindole | CN1CCC(CC1)C1=CNC2=CC=NC=C12 | C13H17N3
